* File: xor.pex.netlist.pex
* Created: Tue Dec 27 22:02:59 2022
* Program "Calibre xRC"
* Version "v2022.3_33.19"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_XOR%A 23 31 35 39 45
c0 48 0 0.0903996f
c1 47 0 0.0393605f
c2 45 0 0.340202f
c3 41 0 0.375695f
c4 39 0 0.125368f
c5 35 0 0.186583f
c6 31 0 0.237437f
c7 25 0 0.0806107f
c8 23 0 0.0404789f
c9 17 0 0.197239f
c10 14 0 0.0778714f
c11 12 0 0.0319162f
c12 6 0 0.212587f
r13 48 51 0.0957447
r14 48 49 7.97448
r15 43 45 118.25
r16 42 48 4.73303
r17 41 43 5.02856
r18 41 42 150.5
r19 39 49 34.75
r20 33 47 7.73958
r21 33 35 62.25
r22 29 47 7.73958
r23 29 31 83.25
r24 25 47 1.29764
r25 25 27 5.62979
r26 23 27 13.2552
r27 17 51 13.2552
r28 17 20 0.0602
r29 12 23 0.0168057
r30 12 14 0.06125
r31 6 20 8
r32 3 14 8
r33 3 6 0.361111
.ends

.subckt PM_XOR%2 15 19 31 35
c0 41 0 0.103328f
c1 35 0 0.140217f
c2 31 0 0.120137f
c3 27 0 0.0549419f
c4 26 0 0.020117f
c5 25 0 0.542301f
c6 24 0 0.428381f
c7 14 0 0.0125736f
c8 12 0 0.0378043f
c9 8 0 0.0934451f
c10 4 0 0.341405f
r11 40 41 8.10318
r12 37 40 4.068
r13 33 35 37.25
r14 29 31 33.75
r15 27 29 5.02856
r16 27 41 13
r17 25 33 5.02856
r18 25 26 227
r19 24 37 5.0159
r20 23 26 5.02856
r21 23 24 172.5
r22 19 21 4.51698
r23 15 17 4.51698
r24 12 40 13.2552
r25 10 14 0.0153166
r26 10 12 0.160087
r27 8 17 16.3327
r28 6 14 0.0217403
r29 6 8 0.126212
r30 4 21 16.3327
r31 2 14 0.0217403
r32 2 4 0.54197
.ends

.subckt PM_XOR%3 6 7
c0 9 0 0.134016f
r1 7 9 4.51698
r2 6 9 4.48302
.ends

.subckt PM_XOR%4 6 7
c0 9 0 0.108377f
r1 7 9 4.8566
r2 6 9 4.48302
.ends

.subckt PM_XOR%OUT 13 24 28 32 36
c0 23 0 0.0288847f
c1 22 0 0.0306893f
c2 20 0 0.0759113f
c3 16 0 0.263636f
c4 10 0 0.194594f
c5 8 0 0.0832397f
c6 4 0 0.292793f
r7 36 38 4.31321
r8 32 34 4.51698
r9 28 30 4.48302
r10 24 26 4.34717
r11 20 30 16.3327
r12 18 23 0.0426916
r13 18 20 0.129138
r14 16 38 16.3327
r15 14 23 0.0426916
r16 14 16 0.648103
r17 11 22 0.00144977
r18 11 13 0.0456522
r19 10 23 0.00144977
r20 10 13 0.287609
r21 8 26 16.3327
r22 6 22 0.0426916
r23 6 8 0.129138
r24 4 34 16.3327
r25 2 22 0.0426916
r26 2 4 0.570862
.ends

.subckt PM_XOR%6 6 7
c0 9 0 0.11802f
r1 7 9 4.68679
r2 6 9 4.48302
.ends

.subckt PM_XOR%7 6 7
c0 9 0 0.114256f
r1 7 9 4.51698
r2 6 9 4.48302
.ends

.subckt PM_XOR%8 15 19 25 29
c0 32 0 0.0841103f
c1 29 0 0.34277f
c2 25 0 0.126475f
c3 14 0 0.0150947f
c4 12 0 0.282118f
c5 8 0 0.110783f
c6 2 0 0.130413f
r7 32 34 8.07022
r8 32 33 8.07022
r9 29 34 124.75
r10 25 33 35.75
r11 19 21 4.66981
r12 15 17 4.66981
r13 12 17 16.3327
r14 10 14 0.0314443
r15 10 12 0.670185
r16 8 21 16.3327
r17 6 14 0.0314443
r18 6 8 0.208704
r19 4 32 13.2552
r20 2 14 0.00623427
r21 2 4 0.278552
.ends

.subckt PM_XOR%B 6 14 18 23 28
c0 37 0 0.0355049f
c1 35 0 0.0595017f
c2 31 0 0.136998f
c3 28 0 0.250421f
c4 23 0 0.200004f
c5 20 0 0.0206276f
c6 19 0 0.660199f
c7 18 0 0.243847f
c8 12 0 0.112484f
c9 11 0 0.0275149f
c10 10 0 0.132688f
c11 9 0 0.133019f
c12 6 0 0.0524561f
r13 33 35 15.5
r14 29 37 1.29764
r15 29 31 9.8617
r16 26 28 35.75
r17 25 37 7.73958
r18 25 28 86.25
r19 21 37 7.73958
r20 21 23 74.25
r21 19 26 5.02856
r22 19 20 268.5
r23 16 20 5.02856
r24 16 18 35.75
r25 15 18 78.25
r26 12 35 0.528559
r27 12 14 23.75
r28 10 15 5.02856
r29 10 11 42.5
r30 9 11 5.02856
r31 8 33 0.528559
r32 8 9 49
r33 3 31 13.2552
r34 3 6 0.00514706
.ends

.subckt PM_XOR%VSS 35 42 69 73 77 81
c0 30 0 0.101852f
c1 28 0 0.00144923f
c2 24 0 0.0151918f
c3 22 0 0.184402f
c4 14 0 0.0564165f
c5 12 0 0.17567f
c6 6 0 0.00828404f
c7 4 0 0.134105f
c8 2 0 9.9104e-19
r9 81 83 4.33019
r10 77 79 4.51698
r11 73 75 4.48302
r12 69 71 4.48302
r13 65 67 13.7547
r14 63 65 14.0774
r15 61 63 14.7736
r16 55 57 36.5094
r17 53 55 13.5849
r18 50 53 14.434
r19 42 61 31.5849
r20 42 57 7.64151
r21 40 67 16.3327
r22 38 63 16.3327
r23 35 55 16.3327
r24 33 50 16.3327
r25 30 83 16.3327
r26 28 40 0.0230068
r27 28 30 0.35375
r28 27 65 16.3327
r29 25 38 0.0206749
r30 25 27 0.118659
r31 24 40 0.0179375
r32 24 27 0.113537
r33 22 79 16.3327
r34 20 38 0.0165352
r35 20 22 0.366852
r36 19 61 16.3327
r37 17 57 5.44423
r38 17 19 0.39439
r39 15 35 0.0206749
r40 15 17 0.344195
r41 14 38 0.0206749
r42 14 19 0.125317
r43 12 75 16.3327
r44 10 35 0.0165352
r45 10 12 0.449815
r46 9 53 16.3327
r47 7 33 0.0181223
r48 7 9 0.118829
r49 6 35 0.0206749
r50 6 9 0.113366
r51 4 71 16.3327
r52 2 33 0.0219781
r53 2 4 0.387258
.ends

.subckt PM_XOR%VD 33 42 49 53 57 61
c0 30 0 0.0967069f
c1 28 0 0.00134566f
c2 24 0 0.015355f
c3 22 0 0.149117f
c4 14 0 0.110399f
c5 12 0 0.131293f
c6 6 0 0.0203126f
c7 4 0 0.0939576f
c8 2 0 0.00157581f
r9 81 83 14.6038
r10 79 81 13.2283
r11 77 79 25.4717
r12 71 73 32.0943
r13 69 71 15.283
r14 66 69 12.566
r15 61 63 4.33019
r16 57 59 4.51698
r17 53 55 4.31321
r18 49 51 4.48302
r19 42 77 14.7736
r20 42 73 18.1698
r21 40 83 16.3327
r22 38 79 16.3327
r23 36 71 16.3327
r24 33 66 16.3327
r25 30 63 16.3327
r26 28 40 0.0213527
r27 28 30 0.257727
r28 27 81 16.3327
r29 25 38 0.0233507
r30 25 27 0.105
r31 24 40 0.0183558
r32 24 27 0.116951
r33 22 59 16.3327
r34 20 38 0.0135763
r35 20 22 0.274355
r36 19 77 8.16635
r37 17 73 5.44423
r38 17 19 0.33122
r39 15 36 0.0233507
r40 15 17 0.298098
r41 14 38 0.0233507
r42 14 19 0.231171
r43 12 55 16.3327
r44 10 36 0.0135763
r45 10 12 0.274355
r46 9 69 16.3327
r47 7 33 0.0178205
r48 7 9 0.105171
r49 6 36 0.0233507
r50 6 9 0.125317
r51 4 51 16.3327
r52 2 33 0.0238956
r53 2 4 0.327115
.ends

